US06451821B1
0.15 g of benzyl ethanimidothioate hydrochloride and then 5 cm3 of ethanol are added, under an inert atmosphere and at a temperature in the region of 0° C., to a stirred solution of 0.14 g of 4-(3-aminophenyl)-4,5-dihydro-1,3-thiazol-2-ylamine in 15 cm3 of ethanol. The mixture is stirred for 1 hour at about 0° C. and then for 2 hours at a temperature in the region of 20° C. A further 0.030 g of benzyl ethanimidothioate is added to complete the reaction, after which the mixture is maintained at a temperature in the region of 45° C. for 24 hours. The reaction medium is evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The residue obtained is taken up in 30 cm3 of water and the solution is washed with 30 cm3 of dichloromethane. The aqueous solution is concentrated under the above conditions and the solid obtained is then triturated from diethyl ether, filtered, air-dried and purified by chromatography at atmospheric pressure on a column of silica gel (particle size 40-63μ; mass 63 g), eluting with a dichloromethane/methanol/aqueous ammonia mixture (12/3/0.5 by volume). The fractions containing the expected product are collected. These fractions are combined and then evaporated under reduced pressure (5 kPa) at a temperature in the region of 40° C. 0.100 g of [3-(2-amino-4,5-dihydrothiazol-4-yl)phenyl]-(1-iminoethyl)amine is obtained in the form of a white solid melting at 180° C. 1H NMR spectrum (250 MHz, (CD3)2SO-d6, with addition of a few drops of CD3COOD-d4, δ in ppm): 2.28 (unres. mult.: 3H); 3.18 (dd, J=12.5 and 8.5 Hz: 1H); 3.80 (dd, J=12.5 and 8.5 Hz: 1H); 5.30 (t, J=8.5 Hz: 1H); 7.21 (broad d, J=8.5 Hz: 1H); 7.27 (broad s 1H); 7.36 (broad d, J=8.5 Hz: 1H); 7.49 (broad t, J=8.5:Hz: 1H).

reactant | benzyl ethanimidothioate hydrochloride | 0.15 g | Cl.C(C)(=N)SCC1=CC=CC=C1
reactant | 4-(3-aminophenyl)-4,5-dihydro-1,3-thiazol-2-ylamine | 0.14 g | NC=1C=C(C=CC1)C1N=C(SC1)N | C9H11N3S
reactant | benzyl ethanimidothioate | 0.030 g | C(C)(=N)SCC1=CC=CC=C1 | C9H11NS
solvent | ethanol | 15 cm3 | C(C)O | C2H6O
solvent | water | 30 cm3 | O | H2O
solvent | ethanol | 5 cm3 | C(C)O | C2H6O
product | [3-(2-amino-4,5-dihydrothiazol-4-yl)phenyl]-(1-iminoethyl)amine | 0.100 g | NC=1SCC(N1)C=1C=C(C=CC1)NC(C)=N | C11H14N4S
